US08183246B2
(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid
Dissolve 70 mg (0.14 mmol) rac.-(3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester in 2.0 ml 4 N hydrogen chloride in dioxan and stir for 16 h at RT. Purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 48 mg (76% of theor.) of the desired product is obtained as racemate.

reactant | rac.-(3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester | 0.14 mmol, 70 mg | C(C)(C)(C)OC(COCC(COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C29H32N2O6
solvent | hydrogen chloride | 4 N, 2.0 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(COCC(=O)O)C)C2=CC=CC=C2 | C25H24N2O6
